US05332831
Methyl 2-fluoro-6-iodobenzoate
Concentrated sulphuric acid (0.5 ml) was added to a solution of 2-fluoro-6-iodobenzoic acid (1.03 g) in methanol (35 ml). After stirring at reflux for 5 days, with two further amounts of conc. sulphuric acid (1 ml) being added after 1 and 2 days, the solution was allowed to cool. The reaction mixture was diluted with ethyl acetate (200 ml) before being washed with water (2×80 ml), 8% aqueous sodium bicarbonate (2×100 ml), dried and concentrated in vacuo. Purification by chromatography eluting with System A (1:3) afforded the title compound (0.72 g) as an orange oil.

reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-fluoro-6-iodobenzoic acid | 1.03 g | FC1=C(C(=O)O)C(=CC=C1)I | C7H4FIO2
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 35 ml | CO | CH4O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 2-fluoro-6-iodobenzoate | 0.72 g | FC1=C(C(=O)OC)C(=CC=C1)I | C8H6FIO2
